US07723345B2
6.38. Synthesis of (2S)-2-Amino-3-(4-(2-amino-6-(2,2,2-trifluoro-1-(3′-fluorobiphenyl-4-yl)ethoxy)pyrimidin-4-yl)phenyl)propanoic acid
4-Chloro-6-(2,2,2-trifluoro-1-(3′-fluorobiphenyl-4-yl)ethoxy)pyrimidin-2-amine (0.75 g, 1.89 mmol), L-p-boronophenylalanine (0.47 g, 2.26 mmol), Pd(PPh3)2Cl2 (79 mgs, 0.113 mmol), Na2CO3 (0.44 g, 4.15 mmol), acetonitrile (10 mls), and H2O (10 mls) were combined in a 20 ml microwave reactor and heated in the microwave at 150° C. for 7 minutes. The reaction was complete by LCMS (Sunfire, neutral). The mixture was concentrated, dissolved in NaOH (20 mls 0.5 N), filtered, extracted with ether three times, and cooled to 0° C. At 0° C., 1.0 N HCl was added slowly until a pH of 6.5 was attained. The mixture was stirred at 0° C. for 30 minutes and the product was filtered, dried in air, treated with excess 2.0 N HCl in ether, concentrated, then triturated with CH2Cl2 to give 1.12 g, 99% (95.5% purity). 385 mgs were purified via prep HPLC (Sunfire, TFA), concentrated, treated with excess 1.0 N HCl (aq.), concentrated to a small volume and lyophilized to afford 240 mgs of the captioned compound. M+1=527; 1H NMR δ (CD3OD) 7.86 (d, 2H), 7.64 (s, 4H), 7.49 (d, 2H), 7.36 (m, 2H), 7.28 (m, 1H), 7.02 (m, 1H), 6.95 (s, 1H), 6.75 (q, 1H), 4.26 (t, 1H), 3.32 (m, 1H), 3.21 (m, 1H).

reactant | 4-Chloro-6-(2,2,2-trifluoro-1-(3′-fluorobiphenyl-4-yl)ethoxy)pyrimidin-2-amine | 1.89 mmol, 0.75 g | ClC1=NC(=NC(=C1)OC(C(F)(F)F)C1=CC=C(C=C1)C1=CC(=CC=C1)F)N | C18H12ClF4N3O
reactant | Na2CO3 | 4.15 mmol, 0.44 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | acetonitrile | 10 mls | C(C)#N | C2H3N
catalyst | Pd(PPh3)2Cl2 | 0.113 mmol, 79 mgs | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | H2O | 10 mls | O | H2O
product | (2S)-2-Amino-3-(4-(2-amino-6-(2,2,2-trifluoro-1-(3′-fluorobiphenyl-4-yl)ethoxy)pyrimidin-4-yl)phenyl)propanoic acid | 240 mgs | N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC(=NC(=C1)OC(C(F)(F)F)C1=CC=C(C=C1)C1=CC(=CC=C1)F)N | C27H22F4N4O3
